US07834021B2
N-(2-{[(3R)-1-(cis-2-Azidocyclohexyl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide.
To a stirred solution of (3R)-1-(cis-2-azidocyclohexyl)-pyrrolidin -3-amine (0.453 g, 1.842 mmol) and (3-trifluoromethyl-benzoylamino)-acetic acid (0.478 g, 1.934 mmol) in CH2Cl2 (15 mL) was added Et3N (0.57 mL, 4.06 mmol) followed by EDC (0.389 g, 2.03 mmol) and HOBt (0.287 g, 2.13 mmol). The mixture was stirred at room temperature for 3 h. Then the reaction mixture was diluted with EtOAc and washed with saturated Na2CO3 and brine. The organic layer was dried (MgSO4), concentrated and flash chromatographed (EtOAc to 10% MeOH/EtOAc) to give 0.745 g of the title compound. MS (EI) calcd: (M+H)+=439.3; found: 439.4.

reactant | (3R)-1-(cis-2-azidocyclohexyl)-pyrrolidin -3-amine | 1.842 mmol, 0.453 g | N(=[N+]=[N-])[C@@H]1[C@@H](CCCC1)N1C[C@@H](CC1)N | C10H19N5
reactant | (3-trifluoromethyl-benzoylamino)-acetic acid | 1.934 mmol, 0.478 g | FC(C=1C=C(C(=O)NCC(=O)O)C=CC1)(F)F | C10H8F3NO3
reactant | Et3N | 4.06 mmol, 0.57 mL | CCN(CC)CC | C6H15N
reactant | EDC | 2.03 mmol, 0.389 g
reactant | HOBt | 2.13 mmol, 0.287 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-{[(3R)-1-(cis-2-Azidocyclohexyl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | 0.745 g | N(=[N+]=[N-])[C@@H]1[C@@H](CCCC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C20H25F3N6O2
